US05604229
Diethyl aminomalonate hydrochloride (10 g) was dissolved in 100 ml of N,N-dimethylformamide, and 6.3 g of triethylamine and 12.1 g of di-t-butyldicarbonate were added thereto. The mixture was stirred at 60° C. for 1 hour. Water was added to the reaction mixture under ice-cooling and the mixture was stirred at room temperature. The reaction mixture was extracted with ether, dried and concentrated. The resultant mixture was purified by silica gel column chromatography using hexane-ethyl acetate (10:1→5:1) as an eluent to give 13 g of colorless, oily diethyl N-t-butoxycarbonylaminomalonate.

reactant | Diethyl aminomalonate hydrochloride | 10 g | Cl.NC(C(=O)OCC)C(=O)OCC
reactant | triethylamine | 6.3 g | C(C)N(CC)CC | C6H15N
reactant | di-t-butyldicarbonate | 12.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | diethyl N-t-butoxycarbonylaminomalonate | C(C)(C)(C)OC(=O)NC(C(=O)OCC)C(=O)OCC | C12H21NO6
